US09334263B2
To a mixture of (4-nitrophenyl)methanesulfonamide (864 mg, 4.0 mmol) and s-trioxane (120 mg, 4.0 mmol) in 1,2-dichoroethane (10 mL) was added trifluoromethanesulfonic acid (1.5 mL), followed by the addition of trifluoromethanesulfonic anhydride (1.5 mL, 4.0 mmol). The reaction mixture was stirred at 35° C. for 2 hours and refluxed overnight. The mixture was then diluted with dichloromethane (100 mL) and washed with water (100 mL) and brine (50 mL). The solvents were evaporated and the residue was purified by Prep-HPLC to give 6-nitro-3,4-dihydro-1H-benzo[d][1,2]thiazine 2,2-dioxide (210 mg, 23%) as a gray solid. MS (ES+) C8H8N2O4S requires: 228, found: 229 [M+H]+.

reactant | (4-nitrophenyl)methanesulfonamide | 4.0 mmol, 864 mg | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)N | C7H8N2O4S
reactant | s-trioxane | 4.0 mmol, 120 mg | C1OCOCO1 | C3H6O3
reactant | trifluoromethanesulfonic acid | 1.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trifluoromethanesulfonic anhydride | 4.0 mmol, 1.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | 1,2-dichoroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-nitro-3,4-dihydro-1H-benzo[d][1,2]thiazine 2,2-dioxide | 210 mg, 23% | [N+](=O)([O-])C=1C=CC2=C(CNS(C2)(=O)=O)C1 | C8H8N2O4S
